US07662958B2
To 1-[(cyclopropylmethyl)amino]-4-hydroxy-3-{7-[(methoxymethoxy)methyl]-1,1-dioxido-4H -thieno[2,3-e][1,2,4]thiadiazin-3-yl}quinolin-2(1H)-one (384.7 mg, 0.78 mmol) was added a solution of hydrogen chloride in dioxane (4N, 7.8 mL) at 0° C. The solution warmed to room temperature and stirred for 5.5 hours and concentrated under reduced pressure. This solid was suspended in dichloromethane (7.8 mL) and to the suspension was added 1,8-diazabicyclo[5.4.0] undec-7-ene (0.6 mL, 4.01 mmol) and diphenylphosphoryl azide (0.85 mL, 3.94 mmol) at room temperature and stirred overnight. The solution was concentrated in vacuo. The residue was purified by chromatography, eluting with 1% triethylamine/dichloromethane to give a triethylamine salt of 3-[7-(azidomethyl)-1,1-dioxido -4H-thieno[2,3-e][1,2,4]thiadiazin-3-yl]-1-[(cyclopropylmethyl)amino]-4-hydroxyquinolin-2(1H)-one (357 mg, 79%). MS (ESI−) m/z 470 (M−H)−. 1H NMR (300 MHz, DMSO-d6) δ 0.22 (m, 2H) 0.46 (br d, J=7.35 Hz, 2H) 1.01 (m, 1H) 4.52 (s, 2H) 5.98 (t, J=6.62 Hz, 1H) 7.24 (s, 1H) 7.40 (m, 1H) 7.56 (m, 1H) 8.05 (m, 1H).

reactant | 1-[(cyclopropylmethyl)amino]-4-hydroxy-3-{7-[(methoxymethoxy)methyl]-1,1-dioxido-4H -thieno[2,3-e][1,2,4]thiadiazin-3-yl}quinolin-2(1H)-one | 0.78 mmol, 384.7 mg | C1(CC1)CNN1C(C(=C(C2=CC=CC=C12)O)C1=NS(C2=C(N1)SC=C2COCOC)(=O)=O)=O | C21H22N4O6S2
reactant | hydrogen chloride | Cl | ClH
reactant | 1,8-diazabicyclo[5.4.0] undec-7-ene | 4.01 mmol, 0.6 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | diphenylphosphoryl azide | 3.94 mmol, 0.85 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dioxane | 4N, 7.8 mL | O1CCOCC1 | C4H8O2
product | 3-[7-(azidomethyl)-1,1-dioxido -4H-thieno[2,3-e][1,2,4]thiadiazin-3-yl]-1-[(cyclopropylmethyl)amino]-4-hydroxyquinolin-2(1H)-one | 357 mg, 79% | N(=[N+]=[N-])CC1=CSC=2NC(=NS(C21)(=O)=O)C=2C(N(C1=CC=CC=C1C2O)NCC2CC2)=O | C19H17N7O4S2
